US08349824B2
A mixture of tert-butyl 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (252 mg, 767 μmol) and hydrochloric acid (5N in ether, 6 ml, 30.0 mmol) is stirred for 18 hours at 25° C. The mixture is adjusted to pH=ca 8 with sat. aqueous sodium carbonate solution and extracted twice with ethyl acetate, the organic layers are separated, dried with magnesium sulfate and the solvent is evaporated under reduced pressure affording 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine (175 mg, 100%) as a light yellow solid. Mp.: >250° C. MS: m/z=229.2 (M+H+).

reactant | tert-butyl 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 767 μmol, 252 mg | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)NC(OC(C)(C)C)=O | C17H17FN4O2
reactant | hydrochloric acid | 30.0 mmol, 5N, 6 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 175 mg, 100% | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)N | C12H9FN4
